US08530461B2
(S)—N-(1-{4-[3-(4-Isopropoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide
To 0.050 g (0.15 mmol) (S)—N-(1-{4-[3-(4-hydroxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide (VI.1) in 1.0 mL DMF are added 0.053 g (0.38 mmol) potassium carbonate and 17.2 μL (0.18 mmol) 2-bromopropane. The mixture is stirred for 12 h at 80° C. After cooling the mixture is directly purified by HPLC (XBridge, MeOH/water (+0.3% NH4OH)) to yield the desired product.

reactant | (S)—N-(1-{4-[3-(4-hydroxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | 0.15 mmol, 0.050 g | OC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(C)=O)C=C1 | C19H22N2O3
reactant | potassium carbonate | 0.38 mmol, 0.053 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 0.18 mmol, 17.2 μL | BrC(C)C | C3H7Br
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | (S)—N-(1-{4-[3-(4-Isopropoxy-phenoxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | C(C)(C)OC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(C)=O)C=C1 | C22H28N2O3
